US08183380B2
4-{3-[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-ureido}-piperidine-1-carboxylic acid methyl ester
The title compound was prepared in accordance with the general method 4 described in example 16 from bis(trichloromethyl) carbonate, 4-amino-piperidine-1-carboxylic acid methyl ester hydrochloride and (R)—N2-indan-1-yl-quinoline-2,6-diamine; MS: m/e=460.8 (M+H−).

reactant | bis(trichloromethyl) carbonate | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | 4-amino-piperidine-1-carboxylic acid methyl ester hydrochloride | Cl.COC(=O)N1CCC(CC1)N
reactant | (R)—N2-indan-1-yl-quinoline-2,6-diamine | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)N | C18H17N3
product | 4-{3-[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-ureido}-piperidine-1-carboxylic acid methyl ester | COC(=O)N1CCC(CC1)NC(=O)NC=1C=C2C=CC(=NC2=CC1)N[C@@H]1CCC2=CC=CC=C12 | C26H29N5O3
